US05834506
3-(2-tert-Butyl-4-hydroxy-5-methyl-phenylsulfanyl)-6-cyclohexyl-4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one
The title compound was prepared as described in General Method 9 from 6-cyclohexyl-4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one (prepared in Example NN; 210 mg, 0.664 mmol), toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxy-5-methyl-phenyl) ester (prepared in Example RRR; 256 mg, 0.730 mmol), K2CO3 (367 mg, 2.655 mmol), and DMF (4 mL). The reaction was stirred at room temperature overnight and then worked up in the usual fashion. The crude product was flash chromatographed using CH2Cl2 :MeOH (98:2) to give the desired product as a solid, m.p. 100°-103° C. 1H NMR (DMSO-6) δ 1.0-2.1 (m, 13 H), 1.45 (s, 9 H), 1.80 (s, 3 H), 2.5-2.6 (2 H+DMSO), 2.7 (d, 1 H), 2.9 (d, 1 H), 6.6-6.7 (d, s, 3 H), 6.77 (s, 1 H), 6.9 (d, 2 H), 9.01 (s, 1 H), 9.13 (s, 1 H).

reactant | 6-cyclohexyl-4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one | 0.664 mmol, 210 mg | C1(CCCCC1)C1(CC(=CC(O1)=O)O)CCC1=CC=C(C=C1)O | C19H24O4
reactant | toluene-4-thiosulfonic acid S-(2-tert-butyl-4-hydroxy-5-methyl-phenyl) ester | 0.730 mmol, 256 mg | C(C)(C)(C)C1=C(C=C(C(=C1)O)C)SS(=O)(=O)C1=CC=C(C=C1)C | C18H22O3S2
reactant | K2CO3 | 2.655 mmol, 367 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-(2-tert-Butyl-4-hydroxy-5-methyl-phenylsulfanyl)-6-cyclohexyl-4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one | C(C)(C)(C)C1=C(C=C(C(=C1)O)C)SC=1C(OC(CC1O)(CCC1=CC=C(C=C1)O)C1CCCCC1)=O | C30H38O5S
